US05578697
Synthesis of 3,3'-dimaleimido-5,5'-bis(trifluoromethyl)biphenyl (6FmBPDM)
10.8 g (110 mmol) of maleic anhydride was dissolved with stirring into 50 mL of N,N'-dimethylformamide in a flask. To the resulting solution was slowly dripped a solution of 16.0 g (50.0 mmol) of 3,3'-diamino-5,5'-bis(trifluoromethyl)biphenyl (6FmBPDA) in 50 mL of dimethyl formamide from a dropping funnel. After stirring the resultant solution for 3 hours, 2.4 g of trimethylamine, 100 mg of magnesium (II) oxide and 10 mg of cobalt (II) acetate tetrahydrate were added to the solution. Subsequently, 13 g of acetic anhydride was dripped at room temperature from a dropping funnel over a period of 30 minutes, and the resultant solution was stirred for three hours. To this reaction solution was added little by little one litter of water, thus precipitating crude crystals which was then taken out through filtration. The crude crystals thus obtained was dissolved into a little amount of dimethyl formamide, and the solution was poured into one litter of water thereby precipitating crystallized product. The same procedure was repeated once more thereby obtaining refined crystals which were then taken out through filtration. The refined crystals were vacuum-dried to obtain the aimed compound (6FmBPDM).

reactant | maleic anhydride | 110 mmol, 10.8 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 3,3'-diamino-5,5'-bis(trifluoromethyl)biphenyl | 50.0 mmol, 16.0 g | NC=1C=C(C=C(C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)N | C14H10F6N2
reactant | trimethylamine | 2.4 g | CN(C)C | C3H9N
reactant | magnesium (II) oxide | 100 mg | [O-2].[Mg+2]
reactant | acetic anhydride | 13 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
reactant | N,N'-dimethylformamide | 50 mL | CN(C)C=O | C3H7NO
catalyst | cobalt (II) acetate tetrahydrate | 10 mg | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 3,3'-dimaleimido-5,5'-bis(trifluoromethyl)biphenyl | C1(C=CC(N1C=1C=C(C=C(C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)N1C(C=CC1=O)=O)=O)=O | C22H10F6N2O4
